US07410976B2
1′-[8-Methoxy-4-(1H-tetrazol-5-yl)-2-naphthoyl]-6-(1-methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one
The compound is synthesized according to the procedure described in Example 1, using 6-(1-methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one instead of 4-oxospiro(chroman-2,4′-piperidin)-6-yl acetamide, and 8-methoxy-4-(1H-tetrazol-5-yl)-2-naphthoic acid instead of 4,8-dimethoxyquinoline-2-carboxylic acid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.39 (1H, s), 8.21 (1H, d, J=8.0 Hz), 8.12 (1H, s), 8.01 (1H, d, J=2.0 Hz), 7.83-7.77 (3H, m), 7.63 (1H, t, J=8 Hz), 7.15 (1H, d, J=8 Hz), 7.11 (1H, d, J=8.0 Hz), 4.40-4.22 (1H, m), 4.02 (3H, s), 3.83 (3H, s), 3.70-3.30 (3H, m), 2.89 (2H, s), 2.12-1.75 (4H, m). MS [M+H]+=550.

reactant | 6-(1-methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one | CN1N=CC(=C1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O | C17H19N3O2
reactant | 8-methoxy-4-(1H-tetrazol-5-yl)-2-naphthoic acid | COC=1C=CC=C2C(=CC(=CC12)C(=O)O)C1=NN=NN1 | C13H10N4O3
product | 1′-[8-Methoxy-4-(1H-tetrazol-5-yl)-2-naphthoyl]-6-(1-methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one | COC=1C=CC=C2C(=CC(=CC12)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=NN(C2)C)C2=NN=NN2 | C30H27N7O4
